US06951875B2
a) 2-[2-(4-Fluoro-phenyl)-vinyl]-pyridine 1-oxide
Following, the general method described in example 2a, 2-picoline-1-oxide was reacted with potassium tert.-butanolate and 4-fluoro-benzaldehyde. After extraction and chromatography the title compound was obtained as a yellow solid material. MS: m/e=215 (M+).

reactant | 2-picoline-1-oxide | [N+]=1(C(=CC=CC1)C)[O-] | C6H7NO
reactant | potassium tert.-butanolate | C(C)(C)(C)[O-].[K+]
reactant | 4-fluoro-benzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 2-[2-(4-Fluoro-phenyl)-vinyl]-pyridine 1-oxide | FC1=CC=C(C=C1)C=CC1=[N+](C=CC=C1)[O-] | C13H10FNO
